US07176217B2
To a solution of ethyl 2-azabicyclo[2.2.1]heptane-3-carboxylate (231 mg, 1.37 mmol) in chloroform (5 ml) were added triethylamine (0.20 ml, 1.43 mmol) and 4-methoxybenzyl chloride (0.19 ml, 1.43 mmol) while being cooled with ice. After a reaction at 60° C. for 20 hours, the reaction mixture, with water added thereto, was extracted with chloroform. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (1% methanol/chloroform), to give ethyl 2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptane-3-carboxylate (340 mg, 86%).

reactant | ethyl 2-azabicyclo[2.2.1]heptane-3-carboxylate | 1.37 mmol, 231 mg | C12NC(C(CC1)C2)C(=O)OCC | C9H15NO2
reactant | triethylamine | 1.43 mmol, 0.20 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzyl chloride | 1.43 mmol, 0.19 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-(4-methoxybenzyl)-2-azabicyclo[2.2.1]heptane-3-carboxylate | 340 mg, 86% | COC1=CC=C(CN2C3CCC(C2C(=O)OCC)C3)C=C1 | C17H23NO3
